US08114872B2
tert-Butyl 1-(4-(benzo[b]thiophen-7-yl)pyridin-3-yl)ethylcarbamate
Add triethylamine (477.4 mg, 4.72 mmol) to a solution of 1-(4-benzo[b]thiophen-7-yl-pyridin-3-yl)-ethylamine (0.6 g, 2.36 mmol) and di-tert-butyldicarbonate (1.03 g, 4.72 mmol) in 1,4-dioxane (10 mL) and water (5 mL). Stir the mixture at RT for 1 h. Dilute the mixture with chloroform (100 mL), wash with saturated aqueous sodium chloride, dry over sodium sulfate, and concentrate. Purify the residue by FCC (20% ethyl acetate in hexane to 10% methanol in DCM) to give the title compound as a yellow solid (0.84 g, 67%). MS (ES) m/z 355 [M+1]+.

reactant | triethylamine | 4.72 mmol, 477.4 mg | C(C)N(CC)CC | C6H15N
reactant | 1-(4-benzo[b]thiophen-7-yl-pyridin-3-yl)-ethylamine | 2.36 mmol, 0.6 g | S1C2=C(C=C1)C=CC=C2C2=C(C=NC=C2)C(C)N | C15H14N2S
reactant | di-tert-butyldicarbonate | 4.72 mmol, 1.03 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-Butyl 1-(4-(benzo[b]thiophen-7-yl)pyridin-3-yl)ethylcarbamate | 0.84 g, 67% | S1C2=C(C=C1)C=CC=C2C2=C(C=NC=C2)C(C)NC(OC(C)(C)C)=O | C20H22N2O2S
